US08084623B2
To a solution of 4-(1-benzenesulfonyl-5-fluoro-1H-indole-2-carbonyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester (290 mg, 0.55 mmol) in 30 mL of methanol was added 10 mL of 1M NaOH. The reaction mixture was warmed to 80° C. and was allowed to stir for one hour, then was concentrated in vacuo to remove the methanol. The remaining residue was extracted with ethyl acetate, and the combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo to afford a yellow colored oil. The oil was chromatographed over a 12 g SiO2 column eluting with 20% ethyl Acetate, 80% hexanes to afford 4-(5-fluoro-1H-indole-2-carbonyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester 162 mg as a white solid in 76% yield.

reactant | 4-(1-benzenesulfonyl-5-fluoro-1H-indole-2-carbonyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 0.55 mmol, 290 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C(=O)C=1N(C2=CC=C(C=C2C1)F)S(=O)(=O)C1=CC=CC=C1 | C28H33FN2O5S
reactant | NaOH | 1M, 10 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-(5-fluoro-1H-indole-2-carbonyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 162 mg, 76% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C(=O)C=1NC2=CC=C(C=C2C1)F | C22H29FN2O3
